US05580647
N-Acryloylmorpholine (AMORPH)
A one liter three-necked flask, equipped with a mechanical stirrer, addition funnel, and a calcium chloride drying tube was charged with morpholine (60 ml=59.8 g=0.686 mol.), triethylamine (100 ml=72.6 g=0.717 mol.), p-methoxyphenol (3 g=0.024 mol.), and methyl ethyl ketone (300 ml). The addition funnel was charged with acryloyl chloride (60 ml=66.8 g=0.738 mol.) and methyl ethyl ketone (60 ml). The acid chloride solution was added dropwise over 45 minutes to the stirred reaction mixture, which was kept below 40° C. by a water/ice bath. After an additional thirty minutes of stirring, the triethylamine hydrochloride was removed by filtration, and the volatiles were removed by rotary evaporation, ultimately at ca 50° C. for one hour under water aspirator (ca. 20 mmHg) vacuum. The resulting brown liquid AMORPH (85 g; 88% yield) was collected, and its structure was confirmed by IR.

reactant | morpholine | 0.686 mol, 60 ml, 59.8 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.717 mol, 100 ml, 72.6 g | C(C)N(CC)CC | C6H15N
reactant | p-methoxyphenol | 0.024 mol, 3 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | acryloyl chloride | 0.738 mol, 60 ml, 66.8 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 300 ml | C(C)C(=O)C | C4H8O
product | N-Acryloylmorpholine | 88% yield | C(C=C)(=O)N1CCOCC1 | C7H11NO2
